US07897767B2
Ethyl 2-chloroethanimidoate hydrochloride (ethyl chloroacetimidate hydrochloride) (2.58 g, 16.4 mmol) was added to a solution of tert-butyl 4-[(8-amino-5,6-dimethyltetraazolo[1,5-a]pyridin-7-yl)amino]butylcarbamate (3.80 g, 10.9 mmol) in chloroform (75 mL). The solution was stirred for 3 days, then saturated aqueous sodium bicarbonate (40 mL) was added. The aqueous phase was extracted with chloroform (3×40 mL). The organic phases were combined, washed with water (2×20 mL) and saturated aqueous sodium bicarbonate (20 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure to afford 4.3 g of tert-butyl 4-[8-(chloromethyl)-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butylcarbamate, which was used in the next step without purification.

reactant | tert-butyl 4-[(8-amino-5,6-dimethyltetraazolo[1,5-a]pyridin-7-yl)amino]butylcarbamate | 10.9 mmol, 3.80 g | NC=1C=2N(C(=C(C1NCCCCNC(OC(C)(C)C)=O)C)C)N=NN2 | C16H27N7O2
reactant | sodium bicarbonate | 40 mL | C([O-])(O)=O.[Na+]
reactant | chloroform | 75 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 4-[8-(chloromethyl)-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butylcarbamate | 4.3 g | ClCC=1N(C2=C(C=3N(C(=C2C)C)N=NN3)N1)CCCCNC(OC(C)(C)C)=O | C18H26ClN7O2
